US08012976B2
8-(4-((Dimethylamino)methyl)phenyl)-9-(1-methyl-1H-1,2,4-triazol-5-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one
To a solution of ethyl 2-(4-((dimethylamino)methyl)phenyl)-3-(1-methyl-1H-1,2,4-triazol-5-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate (506 mg, 1.17 mmol) in methanol (3 mL) was added hydrazine monohydrate (1 mL), and the mixture was stirred at 25° C. for 10 hrs. The mixture was filtered to obtain a white solid (225 mg, yield 48%). LC-MS (ESI) m/z: 402 (M+1)+. 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 2.10 (s, 6H), 3.33 (s, 2H), 3.58 (s, 3H), 4.88-4.92 (m, 2H), 7.20-7.22 (m, 3H), 7.34-7.40 (m, 4H), 7.54-7.62 (t, J=8.4 Hz, 1H), 7.79 (s, 1H), 12.20 (s, 1H).

reactant | ethyl 2-(4-((dimethylamino)methyl)phenyl)-3-(1-methyl-1H-1,2,4-triazol-5-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 1.17 mmol, 506 mg | CN(C)CC1=CC=C(C=C1)C1NC=2C=CC=C(C2C(C1C1=NC=NN1C)=O)C(=O)OCC | C24H27N5O3
reactant | hydrazine monohydrate | 1 mL | O.NN
solvent | methanol | 3 mL | CO | CH4O
product | 8-(4-((Dimethylamino)methyl)phenyl)-9-(1-methyl-1H-1,2,4-triazol-5-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 225 mg, yield 48% | CN(C)CC1=CC=C(C=C1)C1C(C2=NNC(C=3C=CC=C(C23)N1)=O)C1=NC=NN1C | C22H23N7O
